US08912188B2
To a solution of methyl 7-fluoro-2-(4-fluorophenyl)-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylate (150 mg, 0.40 mmol) in tetrahydrofuran (30 ml) and water (1.0 ml) was added lithium hydroxide (38.8 mg, 1.62 mmol) with stirring overnight at room temperature. The reaction mixture was concentrated in vacuo, dissolved in water (30 ml), and adjusted to pH 5 with hydrochloric acid (3N) to give the precipitate, which was collected by filtration to afford 7-fluoro-2-(4-fluorophenyl)-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylic acid as a light yellow solid (120 mg, 83%).

reactant | methyl 7-fluoro-2-(4-fluorophenyl)-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylate | 0.40 mmol, 150 mg | FC1=C(C=C2N=C(C(=NC2=C1)C1=CC=C(C=C1)F)N(C(C)C)C)C(=O)OC | C20H19F2N3O2
reactant | lithium hydroxide | 1.62 mmol, 38.8 mg | [OH-].[Li+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | 1.0 ml | O | H2O
product | 7-fluoro-2-(4-fluorophenyl)-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylic acid | 120 mg, 83% | FC1=C(C=C2N=C(C(=NC2=C1)C1=CC=C(C=C1)F)N(C(C)C)C)C(=O)O | C19H17F2N3O2
